US09422332B2
To the solution of (S)-3,4-dihydro-1H-isoquinoline-1,2-dicarboxylic acid 2-tert-butyl ester (500 mg, 1.8 mmol, Eq: 1.00) and 2,6-difluoroaniline (279 mg, 2.16 mmol, Eq: 1.2) in pyridine (10.0 mL) at 0° C. was added POCl3 (415 mg, 252 μL, 2.7 mmol, Eq: 1.5). The mixture was warmed to RT and stirred for 2 h. The solvent was evaporated, water was added and the mixture extracted with EtOAc. The combined organics were washed with water, brine, dried with MgSO4 and concentrated in vacuo. The crude material was purified by flash chromatography to give (S)-1-(2,6-difluoro-phenylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester (380 mg) as a white foam.

reactant | (S)-3,4-dihydro-1H-isoquinoline-1,2-dicarboxylic acid 2-tert-butyl ester | 1.8 mmol, 500 mg | C(C)(C)(C)OC(=O)N1[C@@H](C2=CC=CC=C2CC1)C(=O)O | C15H19NO4
reactant | 2,6-difluoroaniline | 2.16 mmol, 279 mg | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | POCl3 | 2.7 mmol, 252 μL, 415 mg | O=P(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 10.0 mL | N1=CC=CC=C1 | C5H5N
product | (S)-1-(2,6-difluoro-phenylcarbamoyl)-3,4-dihydro-1H-isoquinoline-2-carboxylic acid tert-butyl ester | 380 mg | C(C)(C)(C)OC(=O)N1[C@@H](C2=CC=CC=C2CC1)C(NC1=C(C=CC=C1F)F)=O | C21H22F2N2O3
